US04748240
3-[4-[4-(6-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]-9-oxa-3-azabicyclo[3.3.1]nonane-2,4-dione
Tetrahydropyran-2,6-dicarboxylic anhydride (3.12 g., 20 mmole) and 1-(4-aminobutyl)-4-(6-chloro-2-pyrazinyl)piperazine (5.94 g., 22 mmole) were combined in 200 ml. of methylene chloride and stirred for 30 minutes at room temperature. The solvent was removed in vacuum and replaced with 350 ml. of xylene. The mixture was refluxed for 50 hours with water removal via a Dean-Stark trap. The xylene was evaporated and the residue was filtered through 75 g. of silica gel with 2% ethanol/chloroform. The product was concentrated in vacuum and crystallized from isopropanol with the addition of 4N isopropanolic HCl. A second recrystallization from methanol gave 4.18 g. of the title compound as the monohydrochloride; m.p. 252°-253° C.

reactant | Tetrahydropyran-2,6-dicarboxylic anhydride | 20 mmole, 3.12 g | O1C2CCCC1C(=O)OC2=O | C7H8O4
reactant | 1-(4-aminobutyl)-4-(6-chloro-2-pyrazinyl)piperazine | 22 mmole, 5.94 g | NCCCCN1CCN(CC1)C1=NC(=CN=C1)Cl | C12H20ClN5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[4-[4-(6-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]-9-oxa-3-azabicyclo[3.3.1]nonane-2,4-dione | ClC1=CN=CC(=N1)N1CCN(CC1)CCCCN1C(C2CCCC(C1=O)O2)=O | C19H26ClN5O3
